US07674815B2
To a solution of 600 mg (3.23 mmol) of 4-chloro-2-nitro-benzaldehyde in DMF (7 ml) were added 559 mg (4.04 mmol) of potassium carbonate and 294 μl (3.23 mmol) of methyl thioglycolate at 0° C. The reaction mixture was stirred for 30 min at 0° C. and then for 24 h at RT. Then the mixture was poured into ice-water and the precipitate was collected by filtration and dissolved in ethyl acetate. The solution was dried (MgSO4) and concentrated to yield 630 mg (86%) of 6-chloro-benzo[b]thiophene-2-carboxylic acid methyl ester as a white solid. 1HNMR (CDCl3, 300 MHz): δ 3.95 (s, 3H), 7.88 (dd, J=8.6 and 1.9 Hz, 1H), 7.79 (d, J=8.6 Hz, 1H), 7.85 (d, J=1.9 Hz, 1H), 8.02 (s, 1H).

reactant | 4-chloro-2-nitro-benzaldehyde | 3.23 mmol, 600 mg | ClC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | potassium carbonate | 4.04 mmol, 559 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl thioglycolate | 3.23 mmol, 294 μl | C(CS)(=O)OC | C3H6O2S
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 6-chloro-benzo[b]thiophene-2-carboxylic acid methyl ester | 630 mg, 86% | COC(=O)C1=CC2=C(S1)C=C(C=C2)Cl | C10H7ClO2S
